US08623869B2
Step 6: 3-Ethynyl-5-(4-isopropylsulfonylphenyl)pyrazin-2-amine
TFA (34.45 g, 23.28 mL, 302.1 mmol) was added to a stirred solution of tert-butyl N-tert-butoxycarbonyl-N-[3-ethynyl-5-(4-isopropylsulfonylphenyl)pyrazin-2-yl]carbamate (5 g, 9.968 mmol) in DCM (200 mL) and the reaction mixture stirred at ambient temperature for 1.5 hours. The solvent was removed in vacuo and the residue re-dissolved in DCM and stirred with saturated aqueous NaHCO3 for 30 minutes. The layers were separated and the organic layer washed with saturated aqueous NaHCO3 (×3). The combined aqueous layers were extracted with DCM (×3) and the combined organic extracts dried (MgSO4), filtered and concentrated in vacuo. The residue was triturated from DCM and precipitate isolated by filtration and dried under vacuum to give the title product as a beige solid (2.8 g, 93% Yield). 1H NMR (400.0 MHz, DMSO) δ 1.18 (d, 6H), 3.44 (t, 1H), 4.76 (s, 1H), 7.01 (s, 2H), 7.89 (d, 2H), 8.20 (d, 2H) and 8.75 (s, 1H) ppm; MS (ES+) 302.12.

reactant | TFA | 302.1 mmol, 23.28 mL, 34.45 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl N-tert-butoxycarbonyl-N-[3-ethynyl-5-(4-isopropylsulfonylphenyl)pyrazin-2-yl]carbamate | 9.968 mmol, 5 g | C(C)(C)(C)OC(=O)N(C(OC(C)(C)C)=O)C1=NC=C(N=C1C#C)C1=CC=C(C=C1)S(=O)(=O)C(C)C | C25H31N3O6S
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 3-Ethynyl-5-(4-isopropylsulfonylphenyl)pyrazin-2-amine | 2.8 g, 93% Yield | C(#C)C=1C(=NC=C(N1)C1=CC=C(C=C1)S(=O)(=O)C(C)C)N | C15H15N3O2S
